US06903091B2
Step A. 5,6,7,8-Tetrahydro-4H-thieno-[3,2-b]azepine
A solution of 6,7-dihydro-5H-benzo[b]thiophen-4-one oxime (1.67 g) in dry dichloromethane (100 mL) was cooled to 0°. Following dropwise addition of diisobutylaluminum hydride (50 ml, 1 M in hexanes), the mixture was stirred at 0° for three hours and then diluted with dichloromethane (50 mL). Sodium fluoride (8.4 g) was added, followed by water (2.7 mL). The reaction mixture was stirred vigorously for 30 minutes, then filtered, and concentrated to provide the title compound (0.81 g) as a white solid.

reactant | 6,7-dihydro-5H-benzo[b]thiophen-4-one oxime | 1.67 g | S1C2=C(C=C1)C(CCC2)=NO | C8H9NOS
reactant | diisobutylaluminum hydride | 1 M, 50 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Sodium fluoride | 8.4 g | [F-].[Na+]
reactant | water | 2.7 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5,6,7,8-Tetrahydro-4H-thieno-[3,2-b]azepine | 0.81 g | S1C=CC=2NCCCCC21 | C8H11NS
